US04086242
Preparation of 4-Chloro-1-cyclohexyl-1H-benzotriazole
To a stirred solution of 11.4 g. of the 4-amino-1-cyclohexylbenzotriazole in 75 ml. of concentrated hydrochloric acid and 75 ml. of water kept at 5° C. is slowly added 4.1 g. of sodium nitrite in 15 ml. of water. On completion of the addition, the reaction mixture is allowed to stir an additional 1/2 hour at 0°-5° C. and then is added slowly to an excess of freshly prepared cuprous chloride in 120 ml. of concentrated hydrochloric acid also at 0°-5° C. On completion of the addition, the reaction is allowed to stir and come to room temperature over a 21/2 hour period. Then 1000 ml. of water is added to the reaction mixture and the crude product is collected by filtration, washed with water and air dried. The product is purified by column chromatography, yield: 6.2 g, m.p. = 141°-144° C, analytical sample, m.p.=146°-147° C., is recrystallized from CHCl3 /Et2O.

reactant | 4-amino-1-cyclohexylbenzotriazole | NC1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H16N4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-Chloro-1-cyclohexyl-1H-benzotriazole | ClC1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H14ClN3
